US08227601B2
To a solution of 4-[7-benzyl-4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino]-benzonitrile (103 mg, 0.21 mmol) in 1,2-dichlorobenzene (2 mL) was added aluminum chloride (87 mg, 0.65 mmol). The reaction mixture was stirred at 160° C. for 1.5 h and cooled to room temperature. The mixture was poured into ice water and extracted with CH2Cl2 (2×10 mL). The combined organic solution was washed with brine (10 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc=50:50) yielded 28 mg (34%) of 4-[4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino]-benzonitrile as a tan solid.

reactant | 4-[7-benzyl-4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino]-benzonitrile | 0.21 mmol, 103 mg | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2SC2=C(C=C(C=C2C)C)C)NC2=CC=C(C#N)C=C2 | C29H25N5S
reactant | aluminum chloride | 0.65 mmol, 87 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichlorobenzene | 2 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-[4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino]-benzonitrile | 28 mg, 34% | CC1=C(C(=CC(=C1)C)C)SC=1C2=C(N=C(N1)NC1=CC=C(C#N)C=C1)NC=C2 | C22H19N5S
